US07410961B2
tert-Butyl 1-isopropyl-3,3-dimethoxycyclopentanecarboxylate (8.32 g, 30.5 mmol) was dissolved in 4 N anhydrous HCl in dioxane (50 mL) and water (10 mL) was added. The reaction mixture was stirred at room temperature overnight, then was concentrated. The residue was dissolved in DCM, dried over anhydrous MgSO4, filtered, and concentrated to give 5.44 g of 1-isopropyl-3-oxocyclopentanecarboxylic acid (used without purification). 1H NMR (500 MHz, CDCl3) δ 2.70 (d, J=18.1 Hz, 1H), 2.44-2.39 (m, 1H), 2.30-2.15 (m, 2H), 2.14 (dd, J=18.1, 1.0 Hz, 1H), 2.06 (p, J=6.9 Hz, 1H), 1.98 (m, 1H), 0.98 (dd, J=11.4, 6.9 Hz, 6H).

reactant | tert-Butyl 1-isopropyl-3,3-dimethoxycyclopentanecarboxylate | 30.5 mmol, 8.32 g | C(C)(C)C1(CC(CC1)(OC)OC)C(=O)OC(C)(C)C | C15H28O4
reactant | water | 10 mL | O | H2O
solvent | HCl | 4 N | Cl | ClH
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 1-isopropyl-3-oxocyclopentanecarboxylic acid | 5.44 g | C(C)(C)C1(CC(CC1)=O)C(=O)O | C9H14O3
